US06541505B1
4-[(4-{4-[2-(3-Cyano-1H-indol-5-yl)ethylcarbamoyl]phenyl}pyrimidin-2-yl)methylamino]-butyric acid.
Using 4-(methylamino)-butyric acid and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 483 (M+H)+.

reactant | 4-(methylamino)-butyric acid | CNCCCC(=O)O | C5H11NO2
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | 4-[(4-{4-[2-(3-Cyano-1H-indol-5-yl)ethylcarbamoyl]phenyl}pyrimidin-2-yl)methylamino]-butyric acid | C(#N)C1=CNC2=CC=C(C=C12)CCNC(=O)C1=CC=C(C=C1)C1=NC(=NC=C1)CNCCCC(=O)O | C27H26N6O3
